US05624943
A solution of 10 g of 4-(2-trimethylsilylethinyl)-phenylacetic acid methyl ester in 950 ml of tetrahydrofuran is mixed at 0° C. with 45 ml of a 1-molar solution of tetrabutylammonium fluoride in tetrahydrofuran. The reaction mixture is stirred for 15 minutes at 0° C. and for 2 hours at room temperature and then concentrated by evaporation. The residue is spread between water and ethyl acetate, the organic phase is dried on sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel with hexane/0-7% ethyl acetate. 5.6 g of 4-ethinylphenylacetic acid methyl ester is obtained as oily crude product.

reactant | 4-(2-trimethylsilylethinyl)-phenylacetic acid methyl ester | 10 g | COC(CC1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C14H18O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 950 ml | O1CCCC1 | C4H8O
product | 4-ethinylphenylacetic acid methyl ester | 5.6 g | COC(CC1=CC=C(C=C1)C#C)=O | C11H10O2
